US06706663B2
Preparation of 3-[3-(4,6-Diethoxy-2-pyrimidinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a cooled mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid (3.71 g, 10.0 mmol), diethyl ether and N,N-dimethylformamide (3.0 ml) is added oxalyl chloride (1.52 g, 12.0 mmol). The mixture is allowed to warm to room temperature and stirred overnight. The mixture is allowed to settle and the supernatant is decanted and concentrated in vacuo. The residue is taken up in methylene chloride and added dropwise to a stirred mixture of diethyl malonimidate dihydrochloride (2.31 g, 10.0 mmol), diisopropylethylamine (10 ml) and methylene chloride at −40° C. over one hour. The resultant mixture is allowed to warm to room temperature, diluted with methylene chloride, washed with water, 10% aqueous hydrochloric acid and water, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford the title compound as a white solid (0.410 g, 8.31%, mp 197-200° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 10.0 mmol, 3.71 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
reactant | oxalyl chloride | 12.0 mmol, 1.52 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl malonimidate dihydrochloride | 10.0 mmol, 2.31 g | Cl.Cl.C(CC(OCC)=N)(OCC)=N
reactant | diisopropylethylamine | 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[3-(4,6-Diethoxy-2-pyrimidinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.410 g, 8.31% | C(C)OC1=NC(=NC(=C1)OCC)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H18F3N5O4S
